US04229352
To 10 ml DMF is added 0.88 g 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylic acid (4.14 mmol) and 1.146 g potassium carbonate (8.29 mmol), after which is added 4.00 mmol of 3-benzylpyrrolylmethyl bromide. This mixture is stirred under nitrogen for 15 hours. The reaction mixture is extracted with ether and the ether phase is washed with water (3X) and brine, and dried over sodium sulfate. The solvent is then removed to yield 3-benzylpyrrolylmethyl 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylic acid | 4.14 mmol, 0.88 g | FC(COC1C(C1C(=O)O)(C)C)(F)F | C8H11F3O3
reactant | potassium carbonate | 8.29 mmol, 1.146 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-benzylpyrrolylmethyl bromide | 4.00 mmol | C(C1=CC=CC=C1)C1=C(NC=C1)CBr | C12H12BrN
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzylpyrrolylmethyl 3-(2,2,2-trifluoroethoxy)-2,2-dimethylcyclopropanecarboxylate | FC(COC1C(C1C(=O)OCC=1NC=CC1CC1=CC=CC=C1)(C)C)(F)F | C20H22F3NO3
